US06916839B2
Preparation of 4-ethinyl-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazolyl-3,5-bis(trifluoromethyl)benzene
183 mg (0.983 mmol) of 4-ethinyl-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole, 2.3 mg (0.01 mmol) of palladium acetate and 3.9 mg (0.02 mmol) of copper(I) iodide are weighed into a round-bottom flask and placed under protective gas. Subsequently, 9.1 mg (0.04 mmol) of di(tert-butyl)phenylphosphine, 300 mg (1.03 mmol) of 3,5-bis(trifluoromethyl)bromobenzene, 137 mg (1.08 mmol) of cyclohexyldimethylamine and dimethylacetamide (5 ml) are added and the mixture is heated to 110° C. for 12 h. After the end of the reaction, the mixture is cooled, poured onto cold, dilute hydrochloric acid and extracted with ether. The combined ether phases which have been dried over MgSO4 are concentrated. The product is obtained as a solid in an 85% yield.

reactant | 4-ethinyl-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole | 0.983 mmol, 183 mg | C(#C)C=1C(=NN(C1C)C)C(F)(F)F | C8H7F3N2
reactant | di(tert-butyl)phenylphosphine | 0.04 mmol, 9.1 mg | C(C)(C)(C)P(C1=CC=CC=C1)C(C)(C)C | C14H23P
reactant | 3,5-bis(trifluoromethyl)bromobenzene | 1.03 mmol, 300 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
reactant | cyclohexyldimethylamine | 1.08 mmol, 137 mg | C1(CCCCC1)N(C)C | C8H17N
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium acetate | 0.01 mmol, 2.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper(I) iodide | 0.02 mmol, 3.9 mg | [Cu]I
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 4-ethinyl-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazolyl-3,5-bis(trifluoromethyl)benzene | 85% yield | C(#C)C=1C(N(N(C1C)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(F)(F)F | C16H11F9N2
